US04675324
A solution of sodium hydroxide (0.32 g) in water (4 ml) was added to a mixture of 4,5-dihydro-8-methoxycarbonylmethoxy-5-propionyl-1H-pyrazolo-[4,3-c]quinoline (1.26 g) in methanol (20 ml). After being stirred at room temperature for 1.5 hours, the solution was evaporated in vacuo and the residue was dissolved in an aqueous solution of sodium bicarbonate. The solution was washed with ethyl acetate and acidified with 10% hydrochloric acid under ice cooling and stirring. The resulting precipitates were collected by filtration, washed with water, and recrystallized for methanol to give 8-carboxymethoxy-4,5-dihydro-5-propionyl-1H-pyrazolo[4,3-c]quinoline (1.05 g).

reactant | sodium hydroxide | 0.32 g | [OH-].[Na+]
reactant | 4,5-dihydro-8-methoxycarbonylmethoxy-5-propionyl-1H-pyrazolo-[4,3-c]quinoline | 1.26 g | COC(=O)COC1=CC=2C3=C(CN(C2C=C1)C(CC)=O)C=NN3 | C16H17N3O4
solvent | water | 4 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | 8-carboxymethoxy-4,5-dihydro-5-propionyl-1H-pyrazolo[4,3-c]quinoline | 1.05 g | C(=O)(O)COC1=CC=2C3=C(CN(C2C=C1)C(CC)=O)C=NN3 | C15H15N3O4
